US05780642
N-[1-(4'-Benzyloxybiphenyl-4-yl)-1-methylethyl]-3-(imidazol-1-yl)propylamine was hydrogenated, using palladium on charcoal as catalyst, in IMS at atmospheric pressure to give 4'-{1-[3-(imidazol-1-yl)propylamino]-1-methylethyl}biphenyl-4-ol, m.p. 178°-180° C.

reactant | N-[1-(4'-Benzyloxybiphenyl-4-yl)-1-methylethyl]-3-(imidazol-1-yl)propylamine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C)NCCCN1C=NC=C1 | C28H31N3O
catalyst | palladium on charcoal | [Pd] | Pd
product | 4'-{1-[3-(imidazol-1-yl)propylamino]-1-methylethyl}biphenyl-4-ol | N1(C=NC=C1)CCCNC(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C21H25N3O
